US06713499B2
To a stirred solution of 500 mg (0.98 mmol) 1-benzoyl-3-{5-[bis-(4-methyl-benzyl)-amino]-2-methoxy-phenyl}-thiourea in 7 ml chloroform was added dropwise 0.050 ml (0.98 mmol) bromine and the reaction mixture heated at reflux for 18 hours. The mixture was then diluted with ethyl acetate and washed with water and then with brine. The organic phase was dried over sodium sulfate and concentrated in vacuo. Flash chromatography (ethyl acetate/hexane) afforded 290 mg (58%) N-{7-[bis-(4-methyl-benzyl)-amino]-4-methoxy-benzothiazol-2-yl}-benzamide as a yellow solid. ES-MS m/e (%): 394 (M+Na+, 14), 508 (M+H+, 100).

reactant | 1-benzoyl-3-{5-[bis-(4-methyl-benzyl)-amino]-2-methoxy-phenyl}-thiourea | 0.98 mmol, 500 mg | C(C1=CC=CC=C1)(=O)NC(=S)NC1=C(C=CC(=C1)N(CC1=CC=C(C=C1)C)CC1=CC=C(C=C1)C)OC | C31H31N3O2S
reactant | bromine | 0.98 mmol, 0.050 ml | BrBr | Br2
solvent | chloroform | 7 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-{7-[bis-(4-methyl-benzyl)-amino]-4-methoxy-benzothiazol-2-yl}-benzamide | 290 mg, 58% | CC1=CC=C(CN(C2=CC=C(C=3N=C(SC32)NC(C3=CC=CC=C3)=O)OC)CC3=CC=C(C=C3)C)C=C1 | C31H29N3O2S
